US04292321
1-[3-(Diphenylamino)propyl]-4-(3-fluorophenyl)-4-piperidinol ethanedioate
A mixture of 10.4 g. (0.018 moles) of 3-[N,N-diphenylamino]-1-bromopropane, 3.5 g. (0.018 moles) of 4-(3-fluorophenyl)-4-piperidinol, 1.9 g. (0.018 moles) of sodium carbonate and 1.0 g. of sodium iodide in 100 ml. of methyl ethyl ketone is refluxed for about 3 hours. The reaction is allowed to cool, filtered and the filtrate is evaporated. The residue is shaken with a mixture of diethyl ether and dilute hydrochloric acid. An oily third phase forms which crystallizes on scratching. This material is recrystallized from isopropanol and then from ethanol, and converted back to the free base. The product is then crystallized from isopropanol containing an excess of oxalic acid giving 2.2 g. of 1-[3-(diphenylamino)propyl]-4-(3-fluorophenyl)-4-piperidinol ethanedioate (1:1), mp. 181°-182.5° C.

reactant | 3-[N,N-diphenylamino]-1-bromopropane | 0.018 moles | C1(=CC=CC=C1)N(C1=CC=CC=C1)CCCBr | C15H16BrN
reactant | 4-(3-fluorophenyl)-4-piperidinol | 0.018 moles | FC=1C=C(C=CC1)C1(CCNCC1)O | C11H14FNO
reactant | sodium carbonate | 0.018 moles | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 1-[3-(Diphenylamino)propyl]-4-(3-fluorophenyl)-4-piperidinol ethanedioate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)N(CCCN1CCC(CC1)(O)C1=CC(=CC=C1)F)C1=CC=CC=C1 | InChI=1S/C26H29FN2O.C2H2O4/c27-23-10-7-9-22(21-23)26(30)15-19-28(20-16-26)17-8-18-29(24-11-3-1-4-12-24)25-13-5-2-6-14-25;3-1(4)2(5)6/h1-7,9-14,21,30H,8,15-20H2;(H,3,4)(H,5,6)
